US04532252
A solution of 3,4-dimethoxy-1,2,5-thiadiazole-1-oxide (1.62 g) in methanol was reacted with a solution of 4-(5-bromo-3-methylpyrid-2-yl)-butylamine (2.43 g) in methanol. After 2 hours at room temperature, the reaction was cooled to 0° C. and saturated by passing ammonia gas for 10 mins. After 1.5 hours the product (which precipitated) was filtered off and recrystallised from ethanol to yield 3-[4-(5-bromo-3-methylpyrid-2-yl)-butylamino]-4-amino-1,2,5-thiadiazole-1-oxide (1.12 g) m.p. 188°-190° C.

reactant | 3,4-dimethoxy-1,2,5-thiadiazole-1-oxide | 1.62 g | COC1=NS(N=C1OC)=O | C4H6N2O3S
reactant | 4-(5-bromo-3-methylpyrid-2-yl)-butylamine | 2.43 g | BrC=1C=C(C(=NC1)CCCCN)C | C10H15BrN2
reactant | ammonia | N | H3N
solvent | methanol | CO | CH4O
product | 3-[4-(5-bromo-3-methylpyrid-2-yl)-butylamino]-4-amino-1,2,5-thiadiazole-1-oxide | 1.12 g | BrC=1C=C(C(=NC1)CCCCNC1=NS(N=C1N)=O)C | C12H16BrN5OS
